US05270313
A solution of 110 mg of N-[6-(2-hydroxyethoxy)-5-(o-methoxybenzyl)-4-pyrimidinyl]-p-vinylbenzenesulfonamide in 3 ml of absolute tetrahydrofuran was treated with 0.3 ml of 3,4-dihydro-2H-pyran and 4 drops of trifluoroacetic acid. After boiling under reflux overnight, the solvent was distilled under reduced pressure and the residue was chromatographed on silica gel with methylene chloride/ethyl acetate (9:1). There were obtained 100 mg of rac-N-[5-(o-methoxybenzyl)-6-[2-[(tetrahydro-2H-pyran-2-yl)oxy]ethoxy]-4-pyrimidinyl]-p-vinylbenzenesulfonamide as a white resin, MS: 460 (M--SO2 +H); 430 (M--SO2 +OCH3).

reactant | N-[6-(2-hydroxyethoxy)-5-(o-methoxybenzyl)-4-pyrimidinyl]-p-vinylbenzenesulfonamide | 110 mg | OCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C=C)CC1=C(C=CC=C1)OC | C22H23N3O5S
reactant | 3,4-dihydro-2H-pyran | 0.3 ml | O1CCCC=C1 | C5H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
catalyst | trifluoroacetic acid | 4 drops | FC(C(=O)O)(F)F | C2HF3O2
product | rac-N-[5-(o-methoxybenzyl)-6-[2-[(tetrahydro-2H-pyran-2-yl)oxy]ethoxy]-4-pyrimidinyl]-p-vinylbenzenesulfonamide | 100 mg | COC1=C(CC=2C(=NC=NC2OCCOC2OCCCC2)NS(=O)(=O)C2=CC=C(C=C2)C=C)C=CC=C1 | C27H31N3O6S
